US07067540B2
Step 1: Preparation of 1-benzyl-4-hydroxy-6-methylpyridin-2(1H)-one.
4-hydroxy-6-methyl-2-pyrone (0.2 mol, 25.2 g) and benzylamine (0.2 mol, 21.4 g) were added to water (800 mL) and heated to reflux with stirring for 2 hours. After cooling to room temperature, a light brown solid was collected by filtration. (33.4 g, 77%): 1H NMR (DMSO-d6/300 MHz) δ: 10.5 (s, 1H), 7.4-7.1 (m, 5H), 5.8-5.6 (m, 2H), 5.2 (s, 2H), 5.1 (s, 2H), 2.2 (s, 3H). ES HRMS m/z 216.100 (M+H, C12H13NO2 requires 216.102).

reactant | 4-hydroxy-6-methyl-2-pyrone | 0.2 mol, 25.2 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | benzylamine | 0.2 mol, 21.4 g | C(C1=CC=CC=C1)N | C7H9N
solvent | water | 800 mL | O | H2O
product | 1-benzyl-4-hydroxy-6-methylpyridin-2(1H)-one | C(C1=CC=CC=C1)N1C(C=C(C=C1C)O)=O | C13H13NO2
